US08562945B2
Piperidine (0.80 mL) was added to a solution of (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-6-(bis((1-methyl-1H-imidazol-2-yl)methyl)amino)hexanoic acid (556 mg, 1.00 mmol) in DMF (4.0 mL). The mixture was stirred at room temperature for 2 hrs. Solvent was evaporated under reduce pressure to afford a residue, which was purified by Amberchrom to afford (S)-2-amino-6-(bis((1-methyl-1H-imidazol-2-yl)methyl)amino) hexanoic acid (330 mg, 99%). 1H NMR (400 MHz, DMSO-d6) 7.94 (s, 1H), 7.04 (d, J=3=1.2 Hz, 2H), 6.74 (d, J=1.2 Hz, 2H), 3.54 (s, 4H), 3.98 (brs, 1H), 2.88 (s, 3H), 2.72 (s, 3H), 2.35 (t, J=6.8 Hz, 2H), 1.60-1.54 (m, 1H), 1.43-1.29 (m, 3H), 1.16-1.11 (m, 2H); MS (ESI), 335 (M+H)+.

reactant | Piperidine | 0.80 mL | N1CCCCC1 | C5H11N
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-6-(bis((1-methyl-1H-imidazol-2-yl)methyl)amino)hexanoic acid | 1.00 mmol, 556 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CCCCN(CC=1N(C=CN1)C)CC=1N(C=CN1)C | C31H36N6O4
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | (S)-2-amino-6-(bis((1-methyl-1H-imidazol-2-yl)methyl)amino) hexanoic acid | 330 mg, 99% | N[C@H](C(=O)O)CCCCN(CC=1N(C=CN1)C)CC=1N(C=CN1)C | C16H26N6O2
